US05962458
A mixture of 7-(4-pyridylmethoxy)-3,4-dihydroquinazolin-4-one (320 mg, 1.26 mmol), DMF (1 drop) and thionyl chloride (10 ml) was heated at 60° C. for 1 hour. The volatiles were removed by evaporation, the residue was triturated with ether, collected by filtration, washed with ether and dried under vacuum to give 4-chloro-7-(4-pyridylmethoxy)quinazoline hydrochloride (435 mg, 98%).

reactant | 7-(4-pyridylmethoxy)-3,4-dihydroquinazolin-4-one | 1.26 mmol, 320 mg | N1=CC=C(C=C1)COC1=CC=C2C(NC=NC2=C1)=O | C14H11N3O2
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 4-chloro-7-(4-pyridylmethoxy)quinazoline hydrochloride | 435 mg, 98% | Cl.ClC1=NC=NC2=CC(=CC=C12)OCC1=CC=NC=C1 | InChI=1S/C14H10ClN3O.ClH/c15-14-12-2-1-11(7-13(12)17-9-18-14)19-8-10-3-5-16-6-4-10;/h1-7,9H,8H2;1H
